US07612099B2
N-(2-{2-[(5-Benzyl-4-hydroxy-2-oxo-2,5-dihydro-furan-3-yl)-phenyl-methyl]-1H-indol-3-yl}-ethyl)-N-methyl-acetamide
Using general procedure C, 5-benzyl-4-hydroxy-5H-furan-2-one (Lit. 13) was reacted with benzaldehyde and N-[2-(1H-indol-3-yl)-ethyl]-N-methyl-acetamide (Lit. 4) to give the title compound as pale yellow solid. MS: 493.3 ([M−H]−).

reactant | 5-benzyl-4-hydroxy-5H-furan-2-one | C(C1=CC=CC=C1)C1C(=CC(O1)=O)O | C11H10O3
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | N-[2-(1H-indol-3-yl)-ethyl]-N-methyl-acetamide | N1C=C(C2=CC=CC=C12)CCN(C(C)=O)C | C13H16N2O
product | N-(2-{2-[(5-Benzyl-4-hydroxy-2-oxo-2,5-dihydro-furan-3-yl)-phenyl-methyl]-1H-indol-3-yl}-ethyl)-N-methyl-acetamide | C(C1=CC=CC=C1)C1C(=C(C(O1)=O)C(C=1NC2=CC=CC=C2C1CCN(C(C)=O)C)C1=CC=CC=C1)O | C31H30N2O4
